US05262426
4-[(2 (methoxyoxymethyl)-4H-imidazo[4,5-b]pyridin 4-yl)methyl]-2-methoxybenzoic acid, N-4-methylcyclohexyl-N-cyclopentyl amide;
4-[(2-(methoxyoxymethyl)-4H-imidazo[4,5-b]pyridin-4-yl)methyl]-2-methoxybenzoic acid, N-2-methylcyclohexyl, N-cyclopentyl amide;

reactant | 4-[(2-(methoxyoxymethyl)-4H-imidazo[4,5-b]pyridin-4-yl)methyl]-2-methoxybenzoic acid | COOCC1=NC=2C(N(C=CC2)CC2=CC(=C(C(=O)O)C=C2)OC)=N1 | C17H17N3O5
reactant | N-cyclopentyl amide | C1(CCCC1)[NH-]
product | 4-[(2 (methoxyoxymethyl)-4H-imidazo[4,5-b]pyridin 4-yl)methyl]-2-methoxybenzoic acid, N-4-methylcyclohexyl-N-cyclopentyl amide | CC1CCC(CC1)N(C(C1=C(C=C(C=C1)CN1C=2C(=CC=C1)N=C(N2)COOC)OC)=O)C2CCCC2 | C29H38N4O4
